US07847100B2
To a solution of 0.135 g (0.28 mmol) 3-(4-acetyl-1H-1,2,3-triazol-1-yl)-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[(methylsulfonyl)(propyl)amino]benzamide in 1 mL THF was added 0.18 mL (0.83 mmol) Ti(OEt)4 and 0.04 g (0.33 mmol) 2-methyl-2-propanesulfinamide. The mixture was stirred at rt for 1 hr then heated to reflux for 7 hours whereupon 40 mg more racemic 2-methyl-2-propanesulfinamide and 0.15 mL Ti(OEt)4 and were added and the mixture heated 2 more hr before cooling in an ice bath. To this was added 1 mL brine and 10 mL EtOAc and the mixture was stirred vigorously, breaking up clumps with a spatula. The mixture was filtered through celite and rinsed w. 50 mL EtOAc. The filtrate washed with 50 mL brine, dried over MgSO4, filtered, and concentrated to give 0.07 g 3-{4-[(1E)-N-(tert-butylsulfinyl)ethanimidoyl]-1H-1,2,3-triazol-1-yl}-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[(methylsulfonyl)(propyl)amino]benzamide as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.53 (s, 1H), 8.14 (s, 1H), 7.96 (s, 1H), 7.87 (s, 1H), 7.39 (m, 2H) 7.07 (m, 2H), 6.51 (br d, J=7.33 Hz, 1H), 5.31 (quint, J=7.14 Hz, 1H), 3.74 (t, J=6.78 Hz, 2H), 2.94 (s, 3H), 2.92 (s, 3H), 1.65 (d, J=6.96 Hz, 3H), 1.54 (m, 2H), 1.33 (s, 9H), 0.93 (t, J=7.32 Hz, 3H). LCMS [M+H]+=591.2

reactant | 3-(4-acetyl-1H-1,2,3-triazol-1-yl)-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[(methylsulfonyl)(propyl)amino]benzamide | 0.28 mmol, 0.135 g | C(C)(=O)C=1N=NN(C1)C=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)N(CCC)S(=O)(=O)C | C23H26FN5O4S
reactant | 2-methyl-2-propanesulfinamide | 0.33 mmol, 0.04 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | brine | 1 mL | [Cl-].[Na+].O
product | 3-{4-[(1E)-N-(tert-butylsulfinyl)ethanimidoyl]-1H-1,2,3-triazol-1-yl}-N-[(1R)-1-(4-fluorophenyl)ethyl]-5-[(methylsulfonyl)(propyl)amino]benzamide | 0.07 g | C(C)(C)(C)S(=O)/N=C(\C)/C=1N=NN(C1)C=1C=C(C(=O)N[C@H](C)C2=CC=C(C=C2)F)C=C(C1)N(CCC)S(=O)(=O)C | C27H35FN6O4S2
